US04083983
Reaction of 2-(4-aminobutyl)-3-methoxypyridine with methyl isothiocyanate gives N-[4-(3-methoxy-2-pyridyl)butyl]-N'-methylthiourea.

reactant | 2-(4-aminobutyl)-3-methoxypyridine | NCCCCC1=NC=CC=C1OC | C10H16N2O
reactant | methyl isothiocyanate | CN=C=S | C2H3NS
product | N-[4-(3-methoxy-2-pyridyl)butyl]-N'-methylthiourea | COC=1C(=NC=CC1)CCCCNC(=S)NC | C12H19N3OS
